US07371743B2
(b) 4-(2-carboxymethoxy-ethylamino)-3-nitro-benzoic acid
400 mg (1.43 mmol) methyl 4-(morpholin-3-on-4-yl)-3-nitro-benzoate are dissolved in 15 ml of methanol and combined with 4.5 ml (4.5 mmol) 1-molar lithium hydroxide solution. The mixture is stirred for 2 hours at ambient temperature. Then it is evaporated down i. vac., the residue is diluted with water, cooled in the ice bath and acidified with 2-molar hydrochloric acid. After 10 minutes cooling in the ice bath the precipitate formed is filtered off, washed with water until neutral and dried at 50° C. in the drying cupboard.

reactant | methyl 4-(morpholin-3-on-4-yl)-3-nitro-benzoate | 1.43 mmol, 400 mg | N1(C(COCC1)=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C12H12N2O6
reactant | lithium hydroxide | 4.5 mmol, 1-molar, 4.5 ml | [OH-].[Li+]
solvent | methanol | 15 ml | CO | CH4O
product | 4-(2-carboxymethoxy-ethylamino)-3-nitro-benzoic acid | C(=O)(O)COCCNC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H12N2O7
